US05665733
2-Methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoic acid.
1.2 g (3.7 mmol) of methyl 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoate are dissolved in 80 ml of methanol in a 250 ml round-bottomed flask, 0.25 g (6.25 mmol) of sodium hydroxide pellets and 1 ml of water are added and then the mixture is stirred at room temperature for 1 h and at reflux for 2 h. The mixture is cooled, the solvent is evaporated under reduced pressure, the residue is taken up in 50 ml of water and 50 ml of diethyl ether, and 36% hydrochloric acid is added dropwise. The insoluble material is collected by filtering, is washed with water and is dried. 0.91 g (2.96 mmol) of white solid is obtained. Melting point: 138°-140° C.

reactant | methyl 2-methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoate | 3.7 mmol, 1.2 g | CN1C(C2=CC=CC=C2C(=C1C1=CC=CC=C1)CCC(=O)OC)=O | C20H19NO3
reactant | sodium hydroxide | 6.25 mmol, 0.25 g | [OH-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | methanol | 80 ml | CO | CH4O
product | 2-Methyl-1-oxo-3-phenyl-1,2-dihydroisoquinoline-4-propanoic acid | 2.96 mmol, 0.91 g | CN1C(C2=CC=CC=C2C(=C1C1=CC=CC=C1)CCC(=O)O)=O | C19H17NO3
